US08431575B2
To a stirred solution of 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (0.40 mmol, 0.08 g) in THF (0.45 mL) at room temperature was added sodium hydride (60% dispersion in mineral oil) (0.54 mmol, 0.022 g) and continued stirring for 10 min. The reaction mixture was cooled to 0° C. using an ice bath. To this was added a solution of 6-chloro-3-cyclohexyl-4-(4-cyclohexyloxy-phenyl)-pyridazine (0.27 mmol, 0.10 g) in THF (0.45 mL). After completion of addition, the reaction mixture was warmed to 65° C. and stirred for 2 hours. After cooling the reaction to room temperature, the reaction was quenched with water (1 mL) and extracted with ethyl acetate (1×2 mL). The ethyl acetate layer was dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was purified on a 4 g SiO2 cartridge eluting with an ethyl acetate/hexanes gradient to give 4-[6-cyclohexyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxy]-piperidine-1-carboxylic acid tert-butyl ester (0.12 g, 81%). To a solution of 4-[6-cyclohexyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxy]-piperidine-1-carboxylic acid tert-butyl ester (0.22 mmol, 0.12 g) in DCM (1.5 mL) was added 4 N HCl in dioxane (0.5 mL) and the reaction was stirred for 30 min. The solvents were removed under reduced pressure and the residue was triturated with anhydrous ethyl ether (50 mL) and filtered to give 3-cyclohexyl-4-(4-cyclohexyloxy-phenyl)-6-(piperidin-4-yloxy)-pyridazine dihydrochloride (0.095 g).

reactant | 4-[6-cyclohexyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxy]-piperidine-1-carboxylic acid tert-butyl ester | 0.22 mmol, 0.12 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1N=NC(=C(C1)C1=CC=C(C=C1)OC1CCCCC1)C1CCCCC1 | C32H45N3O4
reactant | HCl | 4 N | Cl | ClH
solvent | DCM | 1.5 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | 3-cyclohexyl-4-(4-cyclohexyloxy-phenyl)-6-(piperidin-4-yloxy)-pyridazine dihydrochloride | 0.095 g | Cl.Cl.C1(CCCCC1)C=1N=NC(=CC1C1=CC=C(C=C1)OC1CCCCC1)OC1CCNCC1 | InChI=1S/C27H37N3O2.2ClH/c1-3-7-21(8-4-1)27-25(19-26(29-30-27)32-24-15-17-28-18-16-24)20-11-13-23(14-12-20)31-22-9-5-2-6-10-22;;/h11-14,19,21-22,24,28H,1-10,15-18H2;2*1H
